US07863310B2
6-(2-Ethoxymethyl-5-phenyl-3H-[1,2,3]triazol-4-yl)-1-isobutyl-1H-benzimidazol-2-yl amine
Add cesium carbonate (408 mg, 1.25 mmol) and chloromethyl ethyl ether (0.057 ml, 0.62 mmol) to a solution of 1-isobutyl-2-amino-6-(4-phenyl-2H-[1,2,3]triazol-5-yl)-1H-benzimidazole (208 mg, 0.62 mmol) in DMF (5 tri). Stir for 2 hours at RT, add aqueous ammonium chloride solution (20 ml) and extract with diethyl ether (20 ml). Dry over magnesium sulfate, concentrate and purify (radial silica gel chromatography, eluting with hexane:ethyl acetate 1:1) to provide the title compound as a white solid (32 mg, 13%).

reactant | cesium carbonate | 1.25 mmol, 408 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloromethyl ethyl ether | 0.62 mmol, 0.057 ml | C(C)OCCl | C3H7ClO
reactant | 1-isobutyl-2-amino-6-(4-phenyl-2H-[1,2,3]triazol-5-yl)-1H-benzimidazole | 0.62 mmol, 208 mg | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C=2C(=NNN2)C2=CC=CC=C2)N | C19H20N6
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(2-Ethoxymethyl-5-phenyl-3H-[1,2,3]triazol-4-yl)-1-isobutyl-1H-benzimidazol-2-yl amine | 32 mg, 13% | C(C)OCN1NC(=C(N1)C=1C=CC2=C(N(C(=N2)N)CC(C)C)C1)C1=CC=CC=C1 | C22H28N6O
